US09056874B2
(±)-tert-Butyl-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
To a solution of tert-butyl 4-(5-cyanobenzo[d]oxazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (600 mg, 1.39 mmol) in THF (14 mL) at 0° C. methylmagnesium chloride, 3M in THF (1.39 mL, 4.17 mmol) was added. The reaction mixture was stirred for 15 min and then quenched with a saturated aq. solution of NH4Cl at 0° C. The layers were separated and the aqueous layer was extracted with EtOAc. The organic phase was dried over MgSO4 filtered and concentrated. The resulting residue was absorbed onto silica and purified by flash chromatography (0-50% EtOAc:heptanes) to give the title compound. MS (ESI+) m/z 448.22 (M+H).

reactant | tert-butyl 4-(5-cyanobenzo[d]oxazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 1.39 mmol, 600 mg | C(#N)C=1C=CC2=C(N=C(O2)C(=O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C1 | C24H21N3O5
reactant | methylmagnesium chloride | C[Mg]Cl
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | THF | 4.17 mmol, 1.39 mL | C1CCOC1 | C4H8O
product | (±)-tert-Butyl-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(C)(C)(C)OC(=O)N1C=CC2=C(C(=CC(=C12)C)OC)C(C)(O)C=1OC2=C(N1)C=C(C=C2)C#N | C25H25N3O5
